US05308830
Diethylcarbamoyl chloride (1.2 ml; 9.4 mmol) was added to cyclohexylmethyl 1,2,4-triazol-3-yl sulfone (2.0 g; 8.7 mmol) in dry pyridine (10 ml) under dry nitrogen, and the solution stirred at room temperature overnight. The resulting mixture was poured into 2M hydrochloric acid (40 ml) at 2° C. and the cloudy solution extracted into ethyl acetate (3×60 ml). The extracts were combined, dried (Na2SO4), filtered and evaporated, to afford a colorless oil which was dissolved in 95% dichloromethane, 5% acetonitrile, and the solution filtered through silica. Evaporation afforded 3-(cyclohexylmethylsulfonyl)-N,N-diethyl-1,2,4-triazole-1-carboxamide (2.82 g; 98%) as white crystals, m.p. 40°-46° C. (Found, C: 51.04; H: 7.39; N: 17.01; S: 9.81. C14H24N4O3S requires C: 51.20; H: 7.37; N: 17.06; S: 9.76%). NMR - d(CDCl3 ; 90 MHz) 0.80-2.30 (17H, m), 3.31 (2H, d, J=6.1 Hz), 3.61 (4H, m) and 8.92 (1H, s).

reactant | Diethylcarbamoyl chloride | 9.4 mmol, 1.2 ml | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | cyclohexylmethyl 1,2,4-triazol-3-yl sulfone | 8.7 mmol, 2.0 g | N1N=C(N=C1)S(=O)(=O)CC1CCCCC1 | C9H15N3O2S
reactant | hydrochloric acid | 2M, 40 ml | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(cyclohexylmethylsulfonyl)-N,N-diethyl-1,2,4-triazole-1-carboxamide | 2.82 g, 98% | C1(CCCCC1)CS(=O)(=O)C1=NN(C=N1)C(=O)N(CC)CC | C14H24N4O3S
